US04271156
A solution of 2,2-dimethylpent-4-en-3-one (22.5 g) in anhydrous acetonitrile (50 cc) is added, at a maximum temperature of 5° C., to a suspension of triethylammonium pyrid-2-yldithiocarbamate (54.2 g) in anhydrous acetonitrile (150 cc). The reaction is allowed to proceed for 2 hours at between 5° and 20° C. The acetonitrile is evaporated off under reduced pressure (20 mmHg) at 45° C. The residue obtained is dissolved in methylene chloride (600 cc). The organic solution is washed four times with distilled water (total 600 cc), dried over sodium sulphate and evaporated. The product obtained (58.0 g) is dissolved in a mixture of chloroform (360 cc) and ethyl acetate (40 cc). The solution is chromatographed on a column of diameter 6 cm, containing silica (0.063-0.2 mm; 600 g). Elution is carried out with a mixture of chloroform (720 cc) and ethyl acetate (80 cc), this eluate being discarded, and then with a mixture of chloroform (3,000 cc) and ethyl acetate (350 cc), this eluate being collected and evaporated to dryness under reduced pressure (20 mmHg) at 45° C. The product obtained (42.0 g) is purified by recrystallisation from diisopropyl ether (200 cc). 4,4-Dimethyl-3-oxopentyl pyrid-2-yldithiocarbamate (36.0 g) (structure determined by IR spectroscopy in petroleum jelly), which melts at 95° C., is obtained.

reactant | 2,2-dimethylpent-4-en-3-one | 22.5 g | CC(C)(C(C=C)=O)C | C7H12O
reactant | triethylammonium pyrid-2-yldithiocarbamate | 54.2 g | N1=C(C=CC=C1)NC([S-])=S.C(C)[NH+](CC)CC
solvent | acetonitrile | 50 cc | C(C)#N | C2H3N
solvent | acetonitrile | 150 cc | C(C)#N | C2H3N
solvent | methylene chloride | 600 cc | C(Cl)Cl | CH2Cl2
solvent | chloroform | 360 cc | C(Cl)(Cl)Cl | CHCl3
solvent | ethyl acetate | 40 cc | C(C)(=O)OCC | C4H8O2
product | 4,4-Dimethyl-3-oxopentyl pyrid-2-yldithiocarbamate | 36.0 g | N1=C(C=CC=C1)NC(SCCC(C(C)(C)C)=O)=S | C13H18N2OS2
